US09212184B2
To a stirred solution of 2-amino-3,5-dibrompyrazine (20 g, 79 mmol) in dimethylcarbonate (133 mL) at rt was added ethyl 3-bromo-2-oxopropanoate (17.14 g, 79 mmol) in one portion. After stirring at 110° C. for 3 h, the solution was stirred at rt overnight. Water and DCM were added and the aqueous phase was extracted with DCM. After washing of the organic phase with water, drying over Na2(SO4) and filtration the organic phase was evaporated. Flash chromatography yielded 13.95 g (50.6%) ethyl 6,8-dibromoimidazo[1,2-a]pyrazine-2-carboxylate: 1H-NMR (300 MHz,

reactant | 2-amino-3,5-dibrompyrazine | 79 mmol, 20 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | ethyl 3-bromo-2-oxopropanoate | 79 mmol, 17.14 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | Water | O | H2O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | dimethylcarbonate | 133 mL | COC(OC)=O | C3H6O3
product | ethyl 6,8-dibromoimidazo[1,2-a]pyrazine-2-carboxylate | 13.95 g, 50.6% | BrC=1N=C(C=2N(C1)C=C(N2)C(=O)OCC)Br | C9H7Br2N3O2
